US06087379
(a) 1-(t-Butoxycarbonyl)-3-ethylidene-4-piperidone
To a solution of 1.86 g (7.6 mmol) of the resulting 1-(t-butoxycarbonyl)-3-(1-hydroxyethyl)-4-piperidone in 20 ml of methylene chloride, 0.77 g (7.6 mmol) of triethylamine were added. To the resulting mixture, 0.88 g (7.6 mmol) of methanesulfonyl chloride were added under ice cooling, followed by stirring at room temperature for 1 hour. The solvent was distilled off under reduced pressure. Ethyl acetate was added to the residue and the solid so precipitated was filtered off, followed by concentration by evaporation under reduced pressure. The concentrate was then dissolved in 20 ml of chloroform. To the resulting solution, 1.16 g (7.6 mmol) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) was added at room temperature, followed by stirring at the same temperature for 2 hours. After the completion of the reaction, the reaction mixture was concentrated by evaporation under reduced pressure and the residue was subjected to chromatography on a silica gel column (eluting solvent: toluene/ethyl acetate=19/1), whereby 1.32 g (yield: 77.2%) of the title compound was obtained as a colorless oil.

reactant | 1-(t-butoxycarbonyl)-3-(1-hydroxyethyl)-4-piperidone | 7.6 mmol, 1.86 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C(C)O | C12H21NO4
reactant | triethylamine | 7.6 mmol, 0.77 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 7.6 mmol, 0.88 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 7.6 mmol, 1.16 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(t-Butoxycarbonyl)-3-ethylidene-4-piperidone | 1.32 g, yield: 77.2% | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)=CC | C12H19NO3
